US09126970B2
Step b): 10-[4-(3,6-Diphenylcarbazol-9-yl)-6-phenyl-1,3,5-triazin-2-yl]-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
18.7 g (66.3 mmol) of 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene are dissolved in 200 ml of dimethylformamide under a protective-gas atmosphere, and 5.3 g of 60% NaH in mineral oil (73 mmol) are added. After 1 h at room temperature, a solution of 9-(4-chloro-6-phenyl-1,3,5-triazin-2-yl)-3,6-diphenyl-9H-carbazole (40.5 g, 79.5 mmol) in 150 ml of dimethylformamide is added dropwise. The reaction mixture is stirred at room temperature for 12 h. After this time, the reaction mixture is poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is extracted with hot toluene, recrystallised from dichloromethane/isopropanol and finally sublimed in a high vacuum, the purity is 99.9%. The yield is 21.4 g (28 mmol, 42%).

reactant | 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene | 66.3 mmol, 18.7 g | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=CC=C3C1C2)C | C21H17N
reactant | NaH | 5.3 g | [H-].[Na+]
reactant | 9-(4-chloro-6-phenyl-1,3,5-triazin-2-yl)-3,6-diphenyl-9H-carbazole | 79.5 mmol, 40.5 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)C1=CC=CC=C1)C1=CC=CC=C1 | C33H21ClN4
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 10-[4-(3,6-Diphenylcarbazol-9-yl)-6-phenyl-1,3,5-triazin-2-yl]-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C1=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C | C54H37N5
